US08026233B2
(S)-tert-Butyl 1-(2-(tert-butyldimethylsilyloxy)ethyl)-2-oxopyrrolidin-3-ylcarbamate prepared according to Example 11; 200 mg, 0.558 mmol) was dissolved in 4M hydrogen chloride in dioxane (2.8 mL, 11.2 mmol), and the reaction mixture was allowed to stir at ambient temperature overnight. The reaction mixture was concentrated to yield (S)-3-amino-1-(2-hydroxyethyl)pyrrolidin-2-one hydrochloride (101 mg, 100%) which was taken on to the next step without further purification.

reactant | (S)-tert-Butyl 1-(2-(tert-butyldimethylsilyloxy)ethyl)-2-oxopyrrolidin-3-ylcarbamate | [Si](C)(C)(C(C)(C)C)OCCN1C([C@H](CC1)NC(OC(C)(C)C)=O)=O | C17H34N2O4Si
reactant | dioxane | 11.2 mmol, 2.8 mL | O1CCOCC1 | C4H8O2
reactant | hydrogen chloride | 4M | Cl | ClH
product | (S)-3-amino-1-(2-hydroxyethyl)pyrrolidin-2-one hydrochloride | 101 mg, 100% | Cl.N[C@@H]1C(N(CC1)CCO)=O | InChI=1S/C6H12N2O2.ClH/c7-5-1-2-8(3-4-9)6(5)10;/h5,9H,1-4,7H2;1H/t5-;/m0./s1
